US09382241B2
Step 1: 3-Bromo-5-fluoro-N-methoxy-N-methylbenzamide
A solution of 3-bromo-5-fluorobenzoic acid (commercially available) (10.0 g, 45.7 mmol) in thionyl chloride (80 mL) was heated at reflux for 2 hours. Thionyl chloride was removed under reduced pressure and the residue was added to solution of N,O-dimethylhydroxylamine hydrochloride (5.32 g, 54.8 mmol) and Et3N (10.1 g, 0.1 mol) in DCM (300 mL) dropwise at 0° C. After the reaction mixture was stirred at r.t. overnight, it was washed with water (3×100 mL), brine, dried over anhydrous Na2SO4 and concentrated. The colorless oil was used in next step without further purification (11.0 g, yield: 95%).

reactant | 3-bromo-5-fluorobenzoic acid | BrC=1C=C(C(=O)O)C=C(C1)F | C7H4BrFO2
reactant | N,O-dimethylhydroxylamine hydrochloride | 54.8 mmol, 5.32 g | Cl.CNOC
reactant | Et3N | 0.1 mol, 10.1 g | CCN(CC)CC | C6H15N
solvent | thionyl chloride | 80 mL | S(=O)(Cl)Cl | Cl2OS
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | 3-Bromo-5-fluoro-N-methoxy-N-methylbenzamide | yield: 95% | BrC=1C=C(C(=O)N(C)OC)C=C(C1)F | C9H9BrFNO2
